US07666883B2
Experimental Procedure for the Synthesis of Methy-6-chloro-5-[1-hydroxy-2-(ethoxycarbonyl)allyl]pyridine-2-carboxylate (Iu)
To a mixture of Methyl 6-chloro-5-formyl-2-pyridincarboxylate (10 mmol, 1.99 g) and DABCO (10 mmol. 1.12 g) was added an methyl/ethyl acrylate (60 mmol.) under neat conditions [solvent free conditions] at room temperature and the reaction progress was monitored by TLC. Upon completion of the reaction mixture (˜5 min.) was diluted with diethyl ether (300 ml) and washed with water 3×50 ml. The organic layer was dried over Na2SO4 and concentrated, the residue was subjected to column chromatography over silica gel, eluting with ethyl acetate and hexane (2:8, v/v) to give the desired product in almost quantitative (2.98 g.).

reactant | Methyl 6-chloro-5-formyl-2-pyridincarboxylate | 10 mmol, 1.99 g | ClC1=C(C=CC(=N1)C(=O)OC)C=O | C8H6ClNO3
reactant | DABCO | 10 mmol, 1.12 g | C1CN2CCN1CC2 | C6H12N2
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | Methy-6-chloro-5-[1-hydroxy-2-(ethoxycarbonyl)allyl]pyridine-2-carboxylate | COC(=O)C1=NC(=C(C=C1)C(C(=C)C(=O)OCC)O)Cl | C13H14ClNO5
